US05318966
5.0 g (0.0246 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole were dissolved in 100 ml of CH2Cl2, 4.1 ml (0.0295 mol) of triethylamine were added thereto and a solution of 4.3 ml (0.0295 mol) of 3-cyclopentylacetyl chloride in 40 ml of CH2Cl2 was added dropwise thereto at 15° under argon. The mixture was stirred at room temperature for 1/2 hour, then poured into water and extracted with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with MgSO4, filtered and concentrated. By chromatography of the residue over silica gel with n-hexane/ethyl acetate 3:1 there were obtained 6.50 g (84%) of pale yellow oily rac-cis-3-(cyclopentylacetyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.0246 mol, 5.0 g | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | triethylamine | 0.0295 mol, 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentylacetyl chloride | 0.0295 mol, 4.3 ml | C1CC(CC1)CC(=O)Cl | C7H11ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | rac-cis-3-(cyclopentylacetyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 6.50 g, 84% | C1(CCCC1)CC(=O)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C20H27NO2
